Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.03928308897
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])([O:6][H:7])[C:8]#[C:11][H:12].[H:1][C:2](=[C:3]([H:10])[H:13])[H:9],-1.59857959494
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],6.81963083059
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-2.61002328275
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.52169744809
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4][O:5][H:6],1.6333696311
[H:1][C:2]#[C:3][C:4](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:5][H:6]>>[H:1][C:2]#[C:3][C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.46053839027
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-2.18125817098
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6][H:7],7.17891608015
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6],4.2285373884
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.3815890629000003
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.10413321991
[H:12].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.21021696829
[C:5]([H:6])[H:7].[H:1][C:2][O:3][C:4][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-8.37684477232
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]1([H:11])[H:12],-1.4542381359099998
[H:1][C:2]=[C:3]1[O:4][C:5]([H:6])=[C:7]1[O:8][H:9]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9],0.675733010721
[C:3]1[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-6.285141854330001
[C:3]#[C:4][H:5].[H:1][C:2]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.0228801036
[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.079368021640001
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10],5.05912687313
[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.0255347393900003
[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])#[C:6][O:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[H:11],0.829179814049
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],2.07612055597
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],2.72742065213
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-7.04041772411
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[C:7]([H:8])#[C:9][H:10].[O:1][O:2][C:3]([H:4])=[C:5][H:6],2.32658947443
[O:1]=[C:2]=[C:3]([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1]=[C:2]=[C:3]([C:4]=[O:5])[C:7]([H:8])([H:9])[H:10],4.07066119893
[H:1][O:2][C:3]#[C:4][O:5][H:6]>>[H:1][O:2][C:3]#[C:4].[O:5][H:6],6.26675883893
[C:3]#[C:4][H:5].[O:1]=[C:2]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([C:3]#[C:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.83389998759
